US09145433B2
Ethyl 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridine-3-carboxylate (2.1 g) and LiOH.H2O (400 mg) were stirred in THF/H2O (1:1, 60 mL) at 70° C. for 2 h. The reaction mixture was concentrated to dryness and diluted the pale yellow solid with water. The resulting semi-heterogeneous suspension was cooled in ice-bath, stirred and neutralized with aq. 3N HCl to pH 6. The solid aggregate was collected by filtration on Buchner funnel, washed with water and suction dried. Further processing the sample by drying over P2O5 in a vacuum desiccator provided the desired 6-(2-(4-Fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridine-3-carboxylic acid (1.5 g, purity: 97%) as a pale yellow solid.

reactant | Ethyl 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridine-3-carboxylate | 2.1 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=CC=2N(C1)C(=NC2)C(=O)OCC)C | C22H18FN3O2
reactant | LiOH.H2O | 400 mg | O[Li].O
solvent | THF H2O | 60 mL | C1CCOC1.O
product | 6-(2-(4-Fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridine-3-carboxylic acid | 1.5 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=CC=2N(C1)C(=NC2)C(=O)O)C | C20H14FN3O2
